US07071216B2
To 4-fluro-1-nitrobenzene(1 eq) in N,N-dimethylformamide was added Ethyl piperazine (2 eq) and N,N-diisopropylethyl amine (2 eq) and heated at 80° C. for 16 h. Concentrated the resultant mixture and partitioned between ethyl acetate and water. The organic layer was then washed with brine and dried with sodium sulfate and concentrated. Passed through a plug of silica to yield 4-Ethyl-1-(4-nitrophenyl)piperazine. MS: MH+=235.

reactant | 4-fluro-1-nitrobenzene | 1 eq | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Ethyl piperazine | 2 eq | C(C)N1CCNCC1 | C6H14N2
reactant | N,N-diisopropylethyl amine | 2 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Ethyl-1-(4-nitrophenyl)piperazine | C(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
